US06992087B2
Preparation of (+/−)-5-(2,4-dichlorophenyl)-3,6-diethyl-N-[trans-2-ethyl-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting (+/−)-5-bromo-3,6-diethyl-N-[trans-2-ethyl-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine and making non-critical variations provided the title compound as a light yellow semi-solid. IR (liq.) 3443, 2965, 2934, 2874, 1588, 1566, 1551, 1497, 1470, 1390, 1203, 1186, 1173, 1101, 747 cm−1; OAMS supporting ions at: ESI+ 440.0; MS (EI) m/z 439 (M+); Anal. Calcd for C25H27Cl2N3: C, 68.18; H, 6.18; N, 9.54. Found: C, 68.11; H, 6.17; N, 9.29.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | (+/−)-5-bromo-3,6-diethyl-N-[trans-2-ethyl-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | BrC=1N=C(C(=NC1CC)N[C@H]1[C@@H](CC2=CC=CC=C12)CC)CC | C19H24BrN3
product | (+/−)-5-(2,4-dichlorophenyl)-3,6-diethyl-N-[trans-2-ethyl-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@@H](CC2=CC=CC=C12)CC)CC | C25H27Cl2N3
